US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[3-(4-isobutoxy-piperidine-1-sulfonyl)-benzoyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide
3-(4-Isobutoxy-piperidine-1-sulfonyl)-benzoic acid (0.03 mmol, 10.2 mg) is treated with a solution of HATU (11.4 mg, 0.03 mmol) in DMF (1 ml) followed by a solution of 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride (Ex. 38) (11.9 mg, 0.03 mmol) and N-methyl morpholine (0.010 ml, 0.03 mmol) in DMF (1 ml) and shaken at room temperature overnight. The solution is evaporated under vacuum, redissolved in DMSO (0.5 ml) and purified by mass-directed preparative HPLC. The purified fractions are evaporated under vacuum to afford the title compound; [M+H]+ 648.4

reactant | 3-(4-Isobutoxy-piperidine-1-sulfonyl)-benzoic acid | 0.03 mmol, 10.2 mg | C(C(C)C)OC1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C16H23NO5S
reactant | HATU | 0.03 mmol, 11.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride | 0.03 mmol, 11.9 mg | Cl.Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
reactant | N-methyl morpholine | 0.03 mmol, 0.010 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[3-(4-isobutoxy-piperidine-1-sulfonyl)-benzoyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | C(C(C)C)OC1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)N2CCC3(CN/C(/N3)=N\C(=O)C3=NC(=C(N=C3N)N)Cl)CC2)C=CC1 | C28H38ClN9O5S
